US05556864
11.2 g of potassium t-butoxide were added, whilst ice-cooling and stirring, to a solution of 12.0 g of 3-hydroxybenzaldehyde in 100 ml of dimethylacetamide, and, about ten minutes later, 8.05 g of methoxymethyl chloride were added dropwise to the resulting mixture. The reaction mixture was then stirred at room temperature for 1 hour, after which it was partitioned between ethyl acetate and water. The organic layer was concentrated by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 11.1 g (yield 68%) of 3-methoxymethoxybenzaldehyde as a colorless oil. 10 g of this colorless oil were dissolved in 100 ml of acetonitrile, and 18.3 g of (triphenylphosphoranyldene)acetaldehyde were added to the solution. The resulting mixture was then heated under reflux for 5 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was mixed with a mixture of ethyl acetate and hexane in a proportion of about 2:1 by volume. The mixture was stirred and the resulting precipitates were filtered off. The filtrate was concentrated by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 7.16 g (yield 62%) of 3-(3-methoxymethoxyphenyl)-2-propenal as a colorless oil.

reactant | potassium t-butoxide | 11.2 g | CC(C)([O-])C.[K+]
reactant | 3-hydroxybenzaldehyde | 12.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | methoxymethyl chloride | 8.05 g | COCCl | C2H5ClO
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
product | 3-methoxymethoxybenzaldehyde | 11.1 g, yield 68% | COCOC=1C=C(C=O)C=CC1 | C9H10O3
